US06448442B1
3,5-dinitro-O-trimethylsilylmandelonitrile (5.0 g, 16.9 mmol) and BF3-acetic acid complex (30 ml) were dissolved in H2O (5 ml) at room temperature. The reaction temperature was raised to 115° C. immediately and stirred for 10 minutes. The reaction solution was then cooled to 0° C. H2O (100 ml) and EtOAc (200 ml) were added. The organic phase was washed with sat NaHCO3 (100 ml) and brine (100 ml). Drying over MgSO4 was followed by removal of solvents at reduced pressure. The residue was crystallized from isopropylacetate. The crystalline residue was left for preparative HPLC, which gave 2.2 g (54%) of 3,5-dinitromandeloamide.

reactant | 3,5-dinitro-O-trimethylsilylmandelonitrile | 16.9 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C(C#N)O[Si](C)(C)C)C=C(C1)[N+](=O)[O-] | C11H13N3O5Si
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | H2O | 5 ml | O | H2O
solvent | H2O | 100 ml | O | H2O
product | 3,5-dinitromandeloamide | 2.2 g, 54% | [N+](=O)([O-])C=1C=C(C(C(=O)N)O)C=C(C1)[N+](=O)[O-] | C8H7N3O6
